US06131226
B. 1-(N-Methyl-8-azabicyclo[3.2.1]oct-3-yl)-piperazine
A solution of 1-benzyl-4-(N-methyl-8-azabicyclo[3,2,1]oct-3-yl)-piperazine (4.75 g, 15.88 mmol) in 50 ml methanol was hydrogenated at a pressure of 2.0 atm in the presence of 20% palladium hydroxide on carbon (470 mg) for 30 h. The mixture was then filtered through a pad of celite. The filtrate was concentrated to afford a pale yellow solid quantitatively, which is pure enough for subsequent use.

reactant | 1-benzyl-4-(N-methyl-8-azabicyclo[3,2,1]oct-3-yl)-piperazine | 15.88 mmol, 4.75 g | C(C1=CC=CC=C1)N1CCN(CC1)C1CC2CCC(C1)N2C | C19H29N3
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 470 mg | [OH-].[OH-].[Pd+2]
product | 1-(N-Methyl-8-azabicyclo[3.2.1]oct-3-yl)-piperazine | CN1C2CC(CC1CC2)N2CCNCC2 | C12H23N3
